US06774136B2
6-Methoxy-1-[(2-methoxyphenyl)-piperidin-1-yl-methyl]-naphthalen-2-ol
The preparation was carried out in accordance with general synthesis instructions 4 from 6-methoxy-2-naphthol and 1-(2-methoxy-benzylidene)-piperidinium chloride, which had been prepared in accordance with example 32.

reactant | 6-methoxy-2-naphthol | COC=1C=C2C=CC(=CC2=CC1)O | C11H10O2
reactant | 1-(2-methoxy-benzylidene)-piperidinium chloride | [Cl-].COC1=C(C=[N+]2CCCCC2)C=CC=C1
product | 6-Methoxy-1-[(2-methoxyphenyl)-piperidin-1-yl-methyl]-naphthalen-2-ol | COC=1C=C2C=CC(=C(C2=CC1)C(N1CCCCC1)C1=C(C=CC=C1)OC)O | C24H27NO3
